US07951818B2
D.2: 4-Amino-N-(2-diethylamino-ethyl)-benzenesulfonamide
To a solution of N-(2-diethylamino-ethyl)-4-nitro-benzenesulfonamide (200 mg, 0.664 mmol) and ammonium formate (377 mg, 5.980 mmol) in EtOH/EtOAc (1/1: 8 mL) under nitrogen was added Pd/C 10% (35.3 mg, 0.033 mmol). The mixture is refluxed overnight until completion of the reaction. After filtration through a celite plug, the solvent is removed under reduced pressure to yield the title compound, which is used as such for the next step.

reactant | N-(2-diethylamino-ethyl)-4-nitro-benzenesulfonamide | 0.664 mmol, 200 mg | C(C)N(CCNS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC | C12H19N3O4S
reactant | ammonium formate | 5.980 mmol, 377 mg | C(=O)[O-].[NH4+]
solvent | EtOH EtOAc | 8 mL | CCO.CCOC(=O)C
catalyst | Pd/C | 0.033 mmol, 35.3 mg | [Pd] | Pd
product | 4-Amino-N-(2-diethylamino-ethyl)-benzenesulfonamide | NC1=CC=C(C=C1)S(=O)(=O)NCCN(CC)CC | C12H21N3O2S
